US07612114B2
Synthesized from 5-methoxy-2-(6-methoxy-3,3-dimethyl-3,4-dihydronaphthalen-2-yl)phenylamine and 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride according to an analogous synthetic method to Example 152, [4-(2-azepan-1-ylethoxy)benzyl][5-methoxy-2-(6-methoxy-3,3-dimethyl-3,4-dihydronaphthalen-2-yl)phenyl]amine (454 mg) was used according to an analogous synthetic method to Example 36 to provide [4-(2-azepan-1-ylethoxy)benzyl]ethyl[5-methoxy-2-(6-methoxy-3,3-dimethyl-3,4dihydronaphthalen-2-yl)phenyl]amine (387 mg). This compound (385 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (345 mg).

reactant | 5-methoxy-2-(6-methoxy-3,3-dimethyl-3,4-dihydronaphthalen-2-yl)phenylamine | COC=1C=CC(=C(C1)N)C1=CC2=CC=C(C=C2CC1(C)C)OC | C20H23NO2
reactant | 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride | Cl.N1(CCCCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | [4-(2-azepan-1-ylethoxy)benzyl][5-methoxy-2-(6-methoxy-3,3-dimethyl-3,4-dihydronaphthalen-2-yl)phenyl]amine | 454 mg | N1(CCCCCC1)CCOC1=CC=C(CNC2=C(C=CC(=C2)OC)C2=CC3=CC=C(C=C3CC2(C)C)OC)C=C1 | C35H44N2O3
product | [4-(2-azepan-1-ylethoxy)benzyl]ethyl[5-methoxy-2-(6-methoxy-3,3-dimethyl-3,4dihydronaphthalen-2-yl)phenyl]amine | 387 mg | N1(CCCCCC1)CCOC1=CC=C(CN(C2=C(C=CC(=C2)OC)C2=CC3=CC=C(C=C3CC2(C)C)OC)CC)C=C1 | C37H48N2O3
